US07709645B2
400 mg (0.793 mmol) of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 32 mg (0.040 mmol) of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct and 259 mg (0.872 mmol) of 2-amino-3-chloro-5-iodo-benzoic acid were placed in a microwave vial. To the vial was added 3 mL of acetonitrile and 2 mL of a saturated aqueous solution of sodium bicarbonate. The vial was sealed and purged with nitrogen and evacuated with vacuum (3×). The vial was irradiated in a microwave at 90° C. for 400 seconds. The resulting mixture was distributed between ethyl acetate and brine. The aqueous layer was extracted three times with ethyl acetate and the combined organic phases were dried over sodium sulfate and evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate (containing 10% methanol) and hexanes. The clean fractions were concentrated and then the material was triturated with ether to afford 430 mg (0.785 mmol, 51% yield) of 2-amino-3-chloro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid as an orange solid. 1H NMR (500 MHz, CD3OD) δ 8.47 (d, 1H), 8.03 (m, 3H), 7.94 (d, 1H), 7.89 (s, 1H), 7.65 (d, 1H), 7.46 (dd, 1H), 7.34 (m, 3H), 7.09 (d, 1H), 7.02 (t, 1H), 3.82 (s, 3H), 2.33 (s, 3H); MS: m/z 547.9 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.793 mmol, 400 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 2-amino-3-chloro-5-iodo-benzoic acid | 0.872 mmol, 259 mg | NC1=C(C(=O)O)C=C(C=C1Cl)I | C7H5ClINO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.040 mmol, 32 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2-amino-3-chloro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.785 mmol, 430 mg, 51% yield | NC1=C(C(=O)O)C=C(C=C1Cl)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C28H22ClN3O5S
